US04307243
Preparation of methyl 2-(2,2-dichlorovinyl)-3,3-dimethylcyclopropanecarboxylate.
Methyl cis-2-formyl-3,3-dimethylcyclopropanecarboxylate (6.0 mmol) was added with stirring to a solution of sodium trichloroacetate (6.6 mmol) in N,N-dimethylformamide (3.2 ml) present in a 25-ml flask. After 15 minutes' stirring the conversion of the starting carboxylate was 97%, with a selectivity to sodium 2,2,2-trichloro-1-(2,2-dimethyl-3-methoxycarbonylcyclopropyl)ethyl carbonate of more than 90%. Then, 36% w aqueous hydrochloric acid (0.6 ml) and water (50 ml) were added and the mixture obtained was extracted with three 15-ml portions of n-pentane. The combined extract phases were washed with water (20 ml) and a saturated aqueous solution of sodium hydrogen carbonate (20 ml). The washed liquid was dried over anhydrous magnesium sulphate and the n-pentane was evaporated at sub-atmospheric pressure from the dried liquid to give a residue (1.47 g) having a content of methyl 2-(2,2,2-trichloro-1-hydroxyethyl)-3,3-dimethylcyclopropanecarboxylate of 95%, the yield thereof being 85%. The contents of a flask charged with the latter compound (0.73 mmol) and phosphorus trichloride (0.80 mmol) were stirred at 40° C. for 45 min. At the end of this period phosphorus trichloride was evaporated at sub-atmospheric pressure. The residue contained 2,2,2-trichloro-1-(2,2-dimethyl-3-methoxycarbonylcyclopropyl)ethyl dichlorophosphite (compound 2) and was dissolved in diethyl ether (5 ml) and glacial acetic acid (1 ml). After addition of zinc powder (1.5 mmol) the mixture was stirred under reflux for 1.5 hours (about 40° C.). At the end of this period the conversion of the dichlorophosphite was 92%, with a selectivity to the title compound of 79%. The excess of zinc was filtered off, the filtrate was diluted with n-pentane (30 ml), the diluted solution was washed with three portions of 15 ml water and one portion of a saturated aqueous solution of sodium hydrogen carbonate (10 ml), the washed solution was dried over anhydrous magnesium sulphate and the solvent was evaporated from the dried solution to give a residue of the title compound. The cis content of this compound was 60%.

reactant | methyl 2-(2,2,2-trichloro-1-hydroxyethyl)-3,3-dimethylcyclopropanecarboxylate | ClC(C(O)C1C(C1(C)C)C(=O)OC)(Cl)Cl | C9H13Cl3O3
reactant | phosphorus trichloride | 0.80 mmol | P(Cl)(Cl)Cl | Cl3P
reactant | dichlorophosphite | P([O-])(Cl)Cl
catalyst | zinc | 1.5 mmol | [Zn] | Zn
product | methyl 2-(2,2-dichlorovinyl)-3,3-dimethylcyclopropanecarboxylate | ClC(=CC1C(C1(C)C)C(=O)OC)Cl | C9H12Cl2O2
